US08466283B2
Step 3: Preparation of 4-(benzyloxy)-3-methoxy-2-nitrobenzaldehyde
4-Hydroxy-3-methoxy-2-nitrobenzaldehyde (155 g, 786 mmol) was dissolved in DMF (1500 mL) and the stirred solution was treated with potassium carbonate (217 g, 1.57 mol) followed by benzyl bromide (161 g, 0.94 mol). After stirring for 16 h the reaction mixture was concentrated under reduced pressure and separated between water (2 L) and EtOAc (2 L). The organic layer was washed with brine (3×2 L), dried (sodium sulfate) and concentrated under reduced pressure. The resulting solids were triturated with Et2O (1 L) to give the title compound (220 g, 97%): 1H NMR (DMSO-d6) δ: 9.77 (1H, s), 7.87 (1H, d), 7.58 (1H, d), 7.51 (1H, m), 7.49 (1H, m), 7.39 (3H, m), 5.36 (2H, s), 3.05 (3H, s).

reactant | 4-Hydroxy-3-methoxy-2-nitrobenzaldehyde | 786 mmol, 155 g | OC1=C(C(=C(C=O)C=C1)[N+](=O)[O-])OC | C8H7NO5
reactant | potassium carbonate | 1.57 mol, 217 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.94 mol, 161 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 1500 mL | CN(C)C=O | C3H7NO
product | 4-(benzyloxy)-3-methoxy-2-nitrobenzaldehyde | 220 g, 97% | C(C1=CC=CC=C1)OC1=C(C(=C(C=O)C=C1)[N+](=O)[O-])OC | C15H13NO5
